US06730792B2
2-Thienyl-1-methoxybenzene (10 g, 53 mmol) is cooled to −78° C. in dry tetrahydrofuran (265 ml) under nitrogen while stirring. n-Butyl lithium in hexanes (1.6M, 37 ml, 59 mmol, 1.1 eq.) is added slowly and the resulting mixture is stirred cold for an hour. Chloromethyl formate (4.1 ml, 53 mmol, 1.0 equivalent) is added and the reaction is stirred cold for another hour. The mixture is allowed to warm to room temperature before quenching with saturated bicarbonate solution and ethyl acetate. The layers are separated and the organic phase is washed with brine, dried over sodium sulfate and concentrated. The residue is purified via flash chromatography in 5% ethyl acetate/hexanes to afford 7.9 g of 2-(5-methoxycarbonylthien-2-yl)-1-methoxybenzene (61%).

reactant | 2-Thienyl-1-methoxybenzene | 53 mmol, 10 g | S1C(=CC=C1)C1=C(C=CC=C1)OC | C11H10OS
reactant | n-Butyl lithium | C(CCC)[Li]
reactant | Chloromethyl formate | 53 mmol, 4.1 ml, 1.0 equivalent | C(=O)OCCl | C2H3ClO2
solvent | tetrahydrofuran | 265 ml | O1CCCC1 | C4H8O
product | 2-(5-methoxycarbonylthien-2-yl)-1-methoxybenzene | 7.9 g, 61% | COC(=O)C1=CC=C(S1)C1=C(C=CC=C1)OC | C13H12O3S
